US04379765
8-Chloro-6-phenyl-2H,4H-pyrazolo[3,4-d][2]benzazepine-2-acetamide
Heating a mixture of 0.8 g (2.1 mmol) of 8-chloro-6-phenyl-2H,4H-pyrazolo[3,4-d][2]benzazepine-2-acetic acid ethyl ester and 20 ml of methanolic ammonia (ca. 20%, v/v) in an autoclave on the steam bath for 20 hr gave after crystallization from ethyl acetate/ether colorless crystals with mp 236°-238°. The analytical sample was recrystallized from ethyl acetate/methylene chloride/ether.

reactant | 8-chloro-6-phenyl-2H,4H-pyrazolo[3,4-d][2]benzazepine-2-acetic acid ethyl ester | 2.1 mmol, 0.8 g | C(C)OC(CN1N=C2CN=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=CC=CC=C3)=O | C21H18ClN3O2
reactant | ammonia | 20 ml | N | H3N
product | 8-Chloro-6-phenyl-2H,4H-pyrazolo[3,4-d][2]benzazepine-2-acetamide | ClC1=CC2=C(C=3C(CN=C2C2=CC=CC=C2)=NN(C3)CC(=O)N)C=C1 | C19H15ClN4O
